US04264614
A.(i) N-[1-(Methylamino)-2-nitroethenyl]-1,12-dodecanediamine.
A mixture of 1,12-diaminododecane (3 g) and N-methyl-1-(methylthio)-2-nitroethenamine (1.48 g) in water (50 ml) was stirred at room temperature for 20 hours. The solution was evaporated in vacuo and the residue chomatographed (silica/methanol). The appropriate eluate was evaporated to yield the title compound (1.8 g), mp. 123°-125°.

reactant | 1,12-diaminododecane | 3 g | NCCCCCCCCCCCCN | C12H28N2
reactant | N-methyl-1-(methylthio)-2-nitroethenamine | 1.48 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | water | 50 ml | O | H2O
product | N-[1-(Methylamino)-2-nitroethenyl]-1,12-dodecanediamine | 1.8 g | CNC(=C[N+](=O)[O-])NCCCCCCCCCCCCN | C15H32N4O2
